US08426598B2
5-Fluoro-1-{4-[3-(fluoromethyl)-1H-pyrazol-1-yl]benzyl}-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
A solution of ethyl 5-fluoro-1-{4-[3-(hydroxymethyl)-1H-pyrazol-1-yl]benzyl}-4-oxo-1,4-dihydroquinoline-3-carboxylate (0.050 g, 0.119 mmol) in 2 mL of tetrahydrofuran was cooled to −40° C. under nitrogen, and [bis(2-methoxyethyl)-amino]sulfur trifluoride (0.029 g, 0.13 mmol) was added. The reaction mixture was warmed to room temperature and after 4 hours 1 N NaOH (0.50 mL, 0.50 mmol) was added. After 30 minutes, the tetrahydrofuran was removed in vacuo, and 1 mL DMSO and 0.5 mL 40% NaOH were added. After 3 hours, the reaction mixture was acidified with 6 N HCl to pH ˜2, filtered, and purified via reverse phase HPLC to provide the title compound which gave a proton NMR spectrum consistent with theory and a mass ion (ES+) of 395.9 for M+H+: 1H NMR (400 MHz, d6-DMSO) δ 9.30 (s, 1H), 8.50 (s, 1H), 7.87-7.80 (m, 3H), 7.66 (d, J=8.8 Hz, 1H), 7.43 (d, J=8.6 Hz, 2H), 7.40-7.35 (m, 1H), 6.67 (s, 1H), 6.52 (s, 1H), 5.88 (s, 2H), 5.62 (d, J=10.2 Hz, 2H).

reactant | ethyl 5-fluoro-1-{4-[3-(hydroxymethyl)-1H-pyrazol-1-yl]benzyl}-4-oxo-1,4-dihydroquinoline-3-carboxylate | 0.119 mmol, 0.050 g | FC1=C2C(C(=CN(C2=CC=C1)CC1=CC=C(C=C1)N1N=C(C=C1)CO)C(=O)OCC)=O | C23H20FN3O4
reactant | [bis(2-methoxyethyl)-amino]sulfur trifluoride | 0.13 mmol, 0.029 g | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | NaOH | 0.50 mmol, 1 N, 0.50 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 5-Fluoro-1-{4-[3-(fluoromethyl)-1H-pyrazol-1-yl]benzyl}-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | FC1=C2C(C(=CN(C2=CC=C1)CC1=CC=C(C=C1)N1N=C(C=C1)CF)C(=O)O)=O | C21H15F2N3O3
